US05100460
1-Bromo-2-phenyl-3-phenylsulphonyl-2-propanol (1.3 g, 0.004 mole) is dissolved in acetone (30 cc). Sodium iodide (0.9 g, 0.006 mole) is added and heated under reflux for 15 h. The reaction mixture is poured into water (100 cc), reextracted with ether (3×50 cc), washed with a 15% strength NaHSO3 solution (50 cc) and then with water (50 cc) and is dried over MgSO4. The crystallized crude (0.9 g) is recrystallized from carbon tetrachloride to give yellow crystals of 1-iodo-2-phenyl-3-phenylsulphonyl-2-propanol (0.5 g, 31%). Mp=98° C.

reactant | 1-Bromo-2-phenyl-3-phenylsulphonyl-2-propanol | 0.004 mole, 1.3 g | BrCC(CS(=O)(=O)C1=CC=CC=C1)(O)C1=CC=CC=C1 | C15H15BrO3S
reactant | Sodium iodide | 0.006 mole, 0.9 g | [I-].[Na+]
reactant | water | 100 cc | O | H2O
reactant | ether | 50 cc | CCOCC | C4H10O
solvent | acetone | 30 cc | CC(=O)C | C3H6O
product | 1-iodo-2-phenyl-3-phenylsulphonyl-2-propanol | 0.5 g, 31% | ICC(CS(=O)(=O)C1=CC=CC=C1)(O)C1=CC=CC=C1 | C15H15IO3S
